US04408057
The 164.2 g of oil containing diethyl (2-nitrophenylmethyl)-1,3-propanedioate, from Step A, was combined with 1 L of acetic acid and 1 L of aqueous 20% hydrochloric acid, and heated under reflux for 16 hours. The reaction mixture was cooled to ambient temperature, and concentrated under reduced pressure to give a residue. The residue was stirred with 450 mL of water, then 450 mL of aqueous 10% sodium hydroxide solution was added. The mixture was stirred for one hour, then was extracted with four portions of 450 mL each of diethyl ether. The organic layer was discarded. The aqueous layer was acidified with hydrochloric acid, and extracted with three portions of 300 mL each of diethyl ether. The combined extracts were dried with sodium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a solid residue. The solid was dissolved with heating in 200 mL of toluene, and the solution was stirred for 16 hours while cooling to ambient temperature. The resultant slurry was further cooled to 10° C., and the solid collected by filtration. The solid was washed with pentane to give 74.2 g of 3-(2-nitrophenyl)propionic acid, m.p. 111°-112° C.

reactant | diethyl (2-nitrophenylmethyl)-1,3-propanedioate | [N+](=O)([O-])C1=C(C=CC=C1)CC(C(=O)OCC)C(=O)OCC | C14H17NO6
reactant | acetic acid | 1 L | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 450 mL | O | H2O
product | 3-(2-nitrophenyl)propionic acid | 74.2 g | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)O | C9H9NO4
